US07582657B2
(2E)-N-Indol-5-yl-3-[2-(3-pyridyl)-4-(trifluoromethyl)phenyl]prop-2-enamide
Analogous to the procedure used to prepare Example 100, (2E)-3-[2-bromo-4-(trifluoromethyl)phenyl]-N-indol-5-ylprop-2-enamide, Example 97, (120 mg, 0.29 mmol) and pyridine-3-boronic acid (58 mg, 0.47 mmol, Frontier Scientific) provided, after purification by silica gel chromatography (gradient: 0-20%EtOAc in hexane), the title product as a yellow solid. MP 196-197° C. MS (ESI, pos. ion) m/z: 408 (M+1).

reactant | (2E)-3-[2-bromo-4-(trifluoromethyl)phenyl]-N-indol-5-ylprop-2-enamide | BrC1=C(C=CC(=C1)C(F)(F)F)/C=C/C(=O)NC=1C=C2C=CNC2=CC1 | C18H12BrF3N2O
reactant | pyridine-3-boronic acid | 0.47 mmol, 58 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | (2E)-N-Indol-5-yl-3-[2-(3-pyridyl)-4-(trifluoromethyl)phenyl]prop-2-enamide | N1C=CC2=CC(=CC=C12)NC(\C=C\C1=C(C=C(C=C1)C(F)(F)F)C=1C=NC=CC1)=O | C23H16F3N3O
